US07893058B2
Step 1: 5-(5-Bromo-imidazo[1,2-a]pyrazin-8-ylamino)-2-morpholin-4-yl-benzamide
In the same way as described in the general procedure for amine displacement using 5,8-dibromo-imidazo[1,2-a]pyrazine (0.131 g, 0.47 mmol), 5-amino-2-morpholin-4-yl benzamide (157 mg, 0.71 mmol), N,N-diisopropylethylamine (0.120 mL, 0.71 mmol) in iso-propanol (3.7 mL). Trituration with tPrOH and Et2O affords the title compound (127 mg, 67%).

reactant | 5,8-dibromo-imidazo[1,2-a]pyrazine | 0.47 mmol, 0.131 g | BrC1=CN=C(C=2N1C=CN2)Br | C6H3Br2N3
reactant | 5-amino-2-morpholin-4-yl benzamide | 0.71 mmol, 157 mg | NC=1C=CC(=C(C(=O)N)C1)N1CCOCC1 | C11H15N3O2
reactant | N,N-diisopropylethylamine | 0.71 mmol, 0.120 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Et2O | CCOCC | C4H10O
solvent | iso-propanol | 3.7 mL | C(C)(C)O | C3H8O
product | 5-(5-Bromo-imidazo[1,2-a]pyrazin-8-ylamino)-2-morpholin-4-yl-benzamide | 127 mg, 67% | BrC1=CN=C(C=2N1C=CN2)NC=2C=CC(=C(C(=O)N)C2)N2CCOCC2 | C17H17BrN6O2
